US09278982B2
A mixture of ethyl 4-(2-chloroacetyl)piperazine-1-carboxylate (2.36 g, 10.06 mmol) and sodium iodide (3 g, 20.11 mmol) in acetone (45 mL) was stirred at room temperature for 24 h to give a suspension containing white solids. The solids were removed by filtration, and the filtrate was concentrated under reduced pressure. The residue was extracted with CH2Cl2 and H2O. The organic layer then dried over MgSO4, filtered and concentrated to give ethyl 4-(2-iodoacetyl)piperazine-1-carboxylate (2.47 g, 75% yield). C9H151N2O3; brown oil; IR vmax (neat) 2981, 2927, 2864, 1697, 1642, 1464, 1434, 1385, 1286, 1232, 1133, 1073, 1030, 989, 767 cm−1; 1H NMR (400 MHz, CDCl3) δ 4.14 (2H, q, J=7.0 Hz), 3.75 (2H, s), 3.58 (4H, m), 3.43 (4H, m), 1.26 (3H, t, J=7.0 Hz); 13C NMR (100 MHz, CDCl3) δ 166.6, 155.1, 61.8, 47.0, 43.1 (2×), 42.0 (2×), 14.7; ESI-HRMS calcd for C9H161N2O3: 327.0206. found: m/z 327.0215 [M+H]+.

reactant | ethyl 4-(2-chloroacetyl)piperazine-1-carboxylate | 10.06 mmol, 2.36 g | ClCC(=O)N1CCN(CC1)C(=O)OCC | C9H15ClN2O3
reactant | sodium iodide | 20.11 mmol, 3 g | [I-].[Na+]
solvent | acetone | 45 mL | CC(=O)C | C3H6O
product | ethyl 4-(2-iodoacetyl)piperazine-1-carboxylate | 2.47 g, 75% yield | ICC(=O)N1CCN(CC1)C(=O)OCC | C9H15IN2O3
